US04714492
3.5 gms of 2,6-diphenyl-3-ethoxycarbonyl-4-pyrone was dissolved in 33 mls of methanol. 2 mls of glacial acetic acid was added. 13.3 mls of 40% aqueous methylamine was then added very slowly at room temperature. After 6 hours the reaction mixture was diluted with 200 mls of water and extracted with methylene chloride. Evaporation yielded 3.5 gms of ethyl 2,6-diphenyl-1-methyl-4-oxonicotinate which was recrystallized from methylene chloride/ether. mp=177°-9°

reactant | 2,6-diphenyl-3-ethoxycarbonyl-4-pyrone | 3.5 gms | C1(=CC=CC=C1)C=1OC(=CC(C1C(=O)OCC)=O)C1=CC=CC=C1 | C20H16O4
reactant | acetic acid | 2 mls | C(C)(=O)O | C2H4O2
reactant | methylamine | 13.3 mls | CN | CH5N
solvent | methanol | 33 mls | CO | CH4O
solvent | water | 200 mls | O | H2O
product | ethyl 2,6-diphenyl-1-methyl-4-oxonicotinate | 3.5 gms | C1(=CC=CC=C1)C1=C(C(=O)OCC)C(C=C(N1C)C1=CC=CC=C1)=O | C21H19NO3
